US07375087B2
A suspension of sodium allylsulfonate (2.0 g) in thionyl chloride (10.4 mL) was heated at 70° C. and stirred for 1.5 days. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure. The obtained residue was dissolved in dry tetrahydrofuran (10 mL), and the solvent was removed under reduced pressure. The obtained residue was again dissolved in dry tetrahydrofuran (10 mL), and the solvent was removed under reduced pressure to give allylsulfonyl chloride (1.26 g). To a suspension of N-benzyloxycarbonyl-1,2-diaminoethane hydrochloride (0.82 g) and triethylamine (0.63 g) in dichloromethane (5 mL) was added allylsulfonyl chloride (0.25 g) at room temperature, and the mixture was stirred overnight. The reaction was quenched by addition of water, and the organic layer of the resulting mixture was separated. The organic layer was washed with 1 mol/L hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give N-(2-benzyloxycarbonylaminoethyl)allylsulfonamide (82 mg). This material was dissolved in acetonitrile (0.25 mL). To the solution were added 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-bromophenyl)methyl]-5-isopropyl-1H-pyrazole (70 mg), triethylamine (57 mg), palladium acetate(II) (3 mg) and tris(2-methylphenyl)phosphine (7 mg), and the mixture was refluxed overnight under shading the light. The solvent was removed under reduced pressure, and the residue was dissolved in methanol (0.5 mL). To this solution was added 5 mol/L aqueous sodium hydroxide solution (0.25 mL), and the mixture was stirred at room temperature for 1 hour. The insoluble material was removed by filtration, and the filtrate was purified by preparative reverse phase column chromatography (Shiseido CAPCELL PAK UG120 ODS, 5 μL, 120 Å, 20×50 mm, flow rate 30 mL/minute linear gradient, water/methanol=90/10-10/90) to give 4-({4-[(1E)-3-(2-benzyloxycarbonylaminoethylsulfamoyl)prop-1-enyl]phenyl}methyl)-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole (14 mg). This material was dissolved in methanol (0.5 mL). To the solution was added 10% palladium-carbon powder (5 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (10 mg).

reactant | N-benzyloxycarbonyl-1,2-diaminoethane hydrochloride | 0.82 g | Cl.C(C1=CC=CC=C1)OC(=O)NCCN
reactant | triethylamine | 0.63 g | C(C)N(CC)CC | C6H15N
reactant | allylsulfonyl chloride | 0.25 g | C(C=C)S(=O)(=O)Cl | C3H5ClO2S
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-benzyloxycarbonylaminoethyl)allylsulfonamide | 82 mg | C(C1=CC=CC=C1)OC(=O)NCCC=CCNS(=O)=O | C13H18N2O4S
